US04400509
1.0 ml (4.8 mmoles) of hexamethyldisilazane was added to a refluxing mixture consisting of 0.94 g (5.0 mmoles) of N-hydroxy-4-toluenesulfonamide, 5 mg (0.01 mmole) of tetraphenylimidodiphosphate and 20 ml of dichloromethane and by titration of the ammonia evolved with 0.1 N sulfuric acid, it was established that the evolution of ammonia ceased after refluxing for 50 minutes. At that time, 2.5 mmoles of ammonia had been collected and the reaction mixture was evaporated to dryness to obtain 1.29 g (100%) of N-trimethylsilyloxy-4-toluenesulfonamide melting at 87°-90° C.

reactant | hexamethyldisilazane | 4.8 mmoles, 1.0 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | N-hydroxy-4-toluenesulfonamide | 5.0 mmoles, 0.94 g | ONS(=O)(=O)C1=CC=C(C=C1)C | C7H9NO3S
reactant | ammonia | N | H3N
reactant | sulfuric acid | 0.1 N | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | 2.5 mmoles | N | H3N
catalyst | tetraphenylimidodiphosphate | 0.01 mmole, 5 mg | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)NP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C24H21NO6P2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-trimethylsilyloxy-4-toluenesulfonamide | 1.29 g, 100% | C[Si](ONS(=O)(=O)C1=CC=C(C=C1)C)(C)C | C10H17NO3SSi
